US07459472B2
To a solution of 4-Methoxy-4′-trifluoromethyl-biphenyl-3-carboxylic acid [2-(3′-chloro-4′-fluoro-biphenyl-4-yl)-1-(R)-(methoxy-methyl-carbamoyl)-ethyl]-amide (0.1 g, 0.162 mmol) in anhydrous THF (2 mL) was added methyl magnesium bromide [0.35 ml, 1.4M solution in Toluene/THF (75:25)] at 0° C. and allowed to come to room temperature and stirred for 6 h. Reaction was quenched with aq NH4Cl and extracted with EtOAc. Organic layer was washed with water, brine and dried over Na2SO4. Solvent was removed under reduced pressure and the residue was purified by silicagel column chromatography to get pure 4-Methoxy-4′-trifluoromethyl-biphenyl-3-carboxylic acid [1-(R)-(3′-chloro-4′-fluoro-biphenyl-4-ylmethyl)-2-oxo-propyl]-amide (0.055 g)

reactant | 4-Methoxy-4′-trifluoromethyl-biphenyl-3-carboxylic acid [2-(3′-chloro-4′-fluoro-biphenyl-4-yl)-1-(R)-(methoxy-methyl-carbamoyl)-ethyl]-amide | 0.162 mmol, 0.1 g | ClC=1C=C(C=CC1F)C1=CC=C(C=C1)C[C@H](C(N(C)OC)=O)NC(=O)C=1C=C(C=CC1OC)C1=CC=C(C=C1)C(F)(F)F | C32H27ClF4N2O4
reactant | methyl magnesium bromide | 1.4M, 0.35 ml | C[Mg]Br
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 4-Methoxy-4′-trifluoromethyl-biphenyl-3-carboxylic acid [1-(R)-(3′-chloro-4′-fluoro-biphenyl-4-ylmethyl)-2-oxo-propyl]-amide | 0.055 g | ClC=1C=C(C=CC1F)C1=CC=C(C=C1)C[C@H](C(C)=O)NC(=O)C=1C=C(C=CC1OC)C1=CC=C(C=C1)C(F)(F)F | C31H24ClF4NO3
